US07935722B2
N-(8-Chloro-6-cyano-2,3,4,9-tetrahydro-1H-carbazol-3-yl)-isobutyramide
Prepare the title compound by essentially following the procedure as described in Preparation 4 (Method 2) with 2-chloro-4-cyanophenylhydrazine (Preparation 13) and N-(4-oxo-cyclohexyl)-isobutyramide, to obtain the title compound as a pink powder in 50% yield. MS (ES): m/z 316 (M+H), 314 (M−H); HPLC (Method A): Rt=1.96, (90%).

reactant | 2-chloro-4-cyanophenylhydrazine | ClC1=C(C=CC(=C1)C#N)NN | C7H6ClN3
reactant | N-(4-oxo-cyclohexyl)-isobutyramide | O=C1CCC(CC1)NC(C(C)C)=O | C10H17NO2
product | N-(8-Chloro-6-cyano-2,3,4,9-tetrahydro-1H-carbazol-3-yl)-isobutyramide | 50% yield | ClC=1C=C(C=C2C=3CC(CCC3NC12)NC(C(C)C)=O)C#N | C17H18ClN3O
